2100-10-30 08:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2100-10-29**] 10:00 PM
 BLOOD CULTURED - At [**2100-10-30**] 12:00 AM
 INDWELLING PORT (PORTACATH) - START [**2100-10-30**] 12:12 AM
 FEVER - 101.5
F - [**2100-10-29**] 10:00 PM
   - had several episodes of hypotension, responsive to fluids.  Received
   approximately 2L IVF.
   - also had intermittent episodes of hypoxia despite oxygen facemask.
   CXR showed no acute changes.  Decision to intubate was postponed until
   6AM, found to be desatting to the 70s, decision was made to intubate.
   - latest ABG from this AM: 7.37, 39, 313
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2100-10-30**] 01:09 AM
   Vancomycin - [**2100-10-30**] 02:51 AM
   Azithromycin - [**2100-10-30**] 04:02 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2100-10-30**] 05:25 AM
   Morphine Sulfate - [**2100-10-30**] 05:32 AM
   Fentanyl - [**2100-10-30**] 06:09 AM
   Midazolam (Versed) - [**2100-10-30**] 06:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-10-30**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.6
C (97.9
   HR: 95 (79 - 121) bpm
   BP: 72/48(53) {72/41(53) - 139/80(91)} mmHg
   RR: 24 (24 - 44) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             3,048 mL
   PO:
             TF:
   IVF:
   3,048 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    840 mL
   Urine:
   840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,208 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   PIP: 40 cmH2O
   SpO2: 100%
   ABG: 7.37/39/313/22/-2
   Ve: 10.7 L/min
   PaO2 / FiO2: 313
   Physical Examination
   Vitals: T:101.2 BP: 100/60 P:82  R:37  O2: 98% on NRB
   General: Alert, oriented, in moderate respiratory distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: bronchial BS throughout
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  thin, soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   203 K/uL
   8.6 g/dL
   154 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.4 mEq/L
   9 mg/dL
   108 mEq/L
   139 mEq/L
   27.0 %
   7.8 K/uL
        [image002.jpg]
                             [**2100-10-29**]  11:57 PM
                             [**2100-10-30**]  02:36 AM
                             [**2100-10-30**]  03:39 AM
                             [**2100-10-30**]  07:35 AM
   WBC
   7.8
   Hct
   27.0
   Plt
   203
   Cr
   0.5
   TCO2
   25
   24
   23
   Glucose
   154
   Imaging: CT chest [**2100-10-28**]
   1. No PE.
   2. Compared to the reference CT, there are many new opacities,
   particularly in the left lung, most suggestive of bronchopneumonia with
   a strong component of airway inflammation, probably due to infection.
   Superinfection is suggested and correlation with clinical symptoms is
   suggested.
   3. Chronic-appearing fibro-cavitary disease bilaterally in keeping with
   known diagnosis of mycobacterium avium complex.
   CXR [**2100-10-28**]
   There is a large right apical cavity with thickening of irregular
   border, unchanged. The lungs show markedly decrease transparency, with
   partially nodular, partially small cavitary and partially interstitial
   pattern of opacities. The right costophrenic sinus remains obliterated.
   The left costophrenic angle is free. Heart size is noral. Left-sided
   Port-A-Cath in situ.
   CXR [**2100-10-25**]
   The most remarkable abnormality is a large right apical cavity with
   a thickened and irregular border. Additional cavity contents cannot be
   excluded. The non-cavitary remaining right and the entire left lung
   show markedly decreased transparency, with partly nodular, partly small
   cavitary and partly interstitial patterns of opacities. The right
   costophrenic sinus is obliterated, likely caused by a small pleural
   scar, several surgical clips project over the right costophrenic sinus.
   On the left, the costophrenic sinus is unremarkable. Overall, mild
   overinflation is present. The size of
   the cardiac silhouette is unremarkable. Right-sided Port-A-Cath in
   situ.
   Chest CT scan Date: [**9-19**] outside film
   Impression: extensive bronchiectasis and cavitary replacement of
   majority R lung; apex of the right lung has thick wall cavity ??
   mycetoma; progression of LLL disease involvement with only minor
   cavitary disease
   Echocardiogram Date: [**7-20**] outside test
   Impression: preserved LV and RV function; EF 73%; RV hypertrophy
   Microbiology: Micro:
   [**10-28**] > 25 poly < 10 epi. 2+ gnr 2+ gpr 2+ budding yeast. Cx pend
   [**10-25**] > 25 poly < 10 epi. 4+ gpc prs/ch 2+ gnr. Mod commensal resp
   flora.
   [**10-20**] BAL. 2+ poly no org .10-100k resp flora. Legionalla cx neg.
   Fungal cx neg. PCP [**Name Initial (PRE) **]. AFB smear moderate positive. Cx pend. CMV
   cx NGSF. MTb pcr neg. Viral Ag panel neg.
   Assessment and Plan
   67 yo F with hypoxia - PaO2 54 on NRB, repeat 94.  Trasnferred to ICU.
   Cause likely multifactorial with known L PNA and chronic [**Doctor First Name **] (MDR) with
   future plan for R pneumonectomy.
   # Hypoxic respiratory Distress: O2 sat good on NRB but tachypnic in
   high 30's likely in effort to oxygenate well.  Likely multifactorial
   with underlying chronic lung disease with acute PNA.  Admitted with
   fever, CXR with new L sided consolidation.  ID following.  Patient is
   willing to be intubated only for acute problem - does not want to be
   chronically vented.  Also would consider PTX as cause - but no e/o on
   CXR.
   - continue vanco, cefepime, flagyl
   - add azithro per ID recs
   - consider HIV Ab in am per ID recs
   - low threshold to intubate
   - f/u final CXR read
   # Fever:  Likely from PNA as above, abx as above, f/u cx.
   # Anemia:  At baseline
   # [**Doctor First Name **]/bronchiectasis: ID has recommended d/c'ing all meds as [**Doctor First Name **] is
   unlikely to be contributing signifcantly to acute picture.
   - consider c/s thoracics in the morning
   - titrate oxygen to O2 sat of at least 93%
   - albulerol inhaler/nebulizers
   - tylenol prn
   FEN: No IVF, replete electrolytes, NPO for now
   Prophylaxis: boots
   Access: peripherals
   Code:  Will intubate if medically necessary to overcome and acute
   problem.  [**Name (NI) **] is very clear that she does not want to be on a vent
   long term. [**Name (NI) 8948**] (husband and children) very much want her to be full
   code.  At this point, patient does not need intubation, but may in the
   near future.  Will need to continue to discuss this with her, her
   family and would contact her out pt providers as well.
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2100-10-29**] 10:29 PM
   Indwelling Port (PortaCath) - [**2100-10-30**] 12:12 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2100-10-29**] 10:29 PM
   Indwelling Port (PortaCath) - [**2100-10-30**] 12:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2100-10-30 08:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Bronchiectasis, MAC
   Recent pna
   Admitted with left pna [**10-28**]
 transferred to ICU for resp failure
   24 Hour Events:
 BLOOD CULTURED - At [**2100-10-29**] 10:00 PM
 BLOOD CULTURED - At [**2100-10-30**] 12:00 AM
 INDWELLING PORT (PORTACATH) - START [**2100-10-30**] 12:12 AM
 FEVER - 101.5
F - [**2100-10-29**] 10:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2100-10-30**] 01:09 AM
   Vancomycin - [**2100-10-30**] 02:51 AM
   Azithromycin - [**2100-10-30**] 04:02 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2100-10-30**] 05:25 AM
   Morphine Sulfate - [**2100-10-30**] 05:32 AM
   Fentanyl - [**2100-10-30**] 06:09 AM
   Midazolam (Versed) - [**2100-10-30**] 06:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-10-30**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.6
C (97.9
   HR: 95 (79 - 121) bpm
   BP: 72/48(53) {72/41(53) - 139/80(91)} mmHg
   RR: 24 (24 - 44) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             3,052 mL
   PO:
             TF:
   IVF:
   3,052 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    840 mL
   Urine:
   840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,212 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 33 cmH2O
   Plateau: 34 cmH2O
   SpO2: 94%
   ABG: 7.37/39/313/22/-2 on 100%
   Ve: 13.7 L/min
   PaO2 / FiO2: 626
   Physical Examination
   Intubated, sedated, cachectic
   Hrt rrr
   Lungs decreased on right, crackles on left
   Abd benign
   Extrem no edema
   Labs / Radiology
   8.6 g/dL
   203 K/uL
   154 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.4 mEq/L
   9 mg/dL
   108 mEq/L
   139 mEq/L
   27.0 %
   7.8 K/uL
        [image002.jpg]
   CXR reviewed, new left infiltrates, stable right
                             [**2100-10-29**]  11:57 PM
                             [**2100-10-30**]  02:36 AM
                             [**2100-10-30**]  03:39 AM
                             [**2100-10-30**]  07:35 AM
   WBC
   7.8
   Hct
   27.0
   Plt
   203
   Cr
   0.5
   TCO2
   25
   24
   23
   Glucose
   154
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP) / resp failure
 new
   left pna, continue broad abx, wean vent as tolerated, cont micro w/u
   MAC / lung cavity
 not an active issue though has left her with
   minimal pulm reserve, hold outpatient meds
   Hypotension
 IVF as needed
   ICU Care
   Nutrition: start TF
   Glycemic Control:
   Lines:
   18 Gauge - [**2100-10-29**] 10:29 PM
   Indwelling Port (PortaCath) - [**2100-10-30**] 12:12 AM
   Prophylaxis:
   DVT:  sc hep
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition :  ICU
   Total time spent:   36

2100-10-30 10:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2100-10-29**] 10:00 PM
 BLOOD CULTURED - At [**2100-10-30**] 12:00 AM
 INDWELLING PORT (PORTACATH) - START [**2100-10-30**] 12:12 AM
 FEVER - 101.5
F - [**2100-10-29**] 10:00 PM
   - had several episodes of hypotension, responsive to fluids.  Received
   approximately 2L IVF.
   - also had intermittent episodes of hypoxia despite oxygen facemask.
   CXR showed no acute changes.  Decision to intubate was postponed until
   6AM, found to be desatting to the 70s, decision was made to intubate.
   - latest ABG from this AM: 7.37, 39, 313
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2100-10-30**] 01:09 AM
   Vancomycin - [**2100-10-30**] 02:51 AM
   Azithromycin - [**2100-10-30**] 04:02 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2100-10-30**] 05:25 AM
   Morphine Sulfate - [**2100-10-30**] 05:32 AM
   Fentanyl - [**2100-10-30**] 06:09 AM
   Midazolam (Versed) - [**2100-10-30**] 06:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-10-30**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.6
C (97.9
   HR: 95 (79 - 121) bpm
   BP: 72/48(53) {72/41(53) - 139/80(91)} mmHg
   RR: 24 (24 - 44) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             3,048 mL
   PO:
             TF:
   IVF:
   3,048 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    840 mL
   Urine:
   840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,208 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   PIP: 40 cmH2O
   SpO2: 100%
   ABG: 7.37/39/313/22/-2
   Ve: 10.7 L/min
   PaO2 / FiO2: 313
   Physical Examination
   Vitals: T:101.2 BP: 100/60 P:82  R:37  O2: 98% on NRB
   General: Alert, oriented, in moderate respiratory distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: bronchial BS throughout
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  thin, soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   203 K/uL
   8.6 g/dL
   154 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.4 mEq/L
   9 mg/dL
   108 mEq/L
   139 mEq/L
   27.0 %
   7.8 K/uL
        [image002.jpg]
                             [**2100-10-29**]  11:57 PM
                             [**2100-10-30**]  02:36 AM
                             [**2100-10-30**]  03:39 AM
                             [**2100-10-30**]  07:35 AM
   WBC
   7.8
   Hct
   27.0
   Plt
   203
   Cr
   0.5
   TCO2
   25
   24
   23
   Glucose
   154
   ALT: 8, AST: 17, LD: 200, AP: 51, tbili: 0.3, Ca: 8.3, Phos: 2.7, Mg:
   1.8
   Microbiology: Micro:
   [**10-28**] > 25 poly < 10 epi. 2+ gnr 2+ gpr 2+ budding yeast. Cx pend
   [**10-25**] > 25 poly < 10 epi. 4+ gpc prs/ch 2+ gnr. Mod commensal resp
   flora.
   [**10-20**] BAL. 2+ poly no org .10-100k resp flora. Legionalla cx neg.
   Fungal cx neg. PCP [**Name Initial (PRE) **]. AFB smear moderate positive. Cx pend. CMV
   cx NGSF. MTb pcr neg. Viral Ag panel neg.
   Imaging: CT chest [**2100-10-28**]
   1. No PE.
   2. Compared to the reference CT, there are many new opacities,
   particularly in the left lung, most suggestive of bronchopneumonia with
   a strong component of airway inflammation, probably due to infection.
   Superinfection is suggested and correlation with clinical symptoms is
   suggested.
   3. Chronic-appearing fibro-cavitary disease bilaterally in keeping with
   known diagnosis of mycobacterium avium complex.
   CXR [**2100-10-28**]
   There is a large right apical cavity with thickening of irregular
   border, unchanged. The lungs show markedly decrease transparency, with
   partially nodular, partially small cavitary and partially interstitial
   pattern of opacities. The right costophrenic sinus remains obliterated.
   The left costophrenic angle is free. Heart size is noral. Left-sided
   Port-A-Cath in situ.
   CXR [**2100-10-25**]
   The most remarkable abnormality is a large right apical cavity with
   a thickened and irregular border. Additional cavity contents cannot be
   excluded. The non-cavitary remaining right and the entire left lung
   show markedly decreased transparency, with partly nodular, partly small
   cavitary and partly interstitial patterns of opacities. The right
   costophrenic sinus is obliterated, likely caused by a small pleural
   scar, several surgical clips project over the right costophrenic sinus.
   On the left, the costophrenic sinus is unremarkable. Overall, mild
   overinflation is present. The size of
   the cardiac silhouette is unremarkable. Right-sided Port-A-Cath in
   situ.
   Chest CT scan Date: [**9-19**] outside film
   Impression: extensive bronchiectasis and cavitary replacement of
   majority R lung; apex of the right lung has thick wall cavity ??
   mycetoma; progression of LLL disease involvement with only minor
   cavitary disease
   Echocardiogram Date: [**7-20**] outside test
   Impression: preserved LV and RV function; EF 73%; RV hypertrophy
   CXR: ([**10-29**]): my read: slight worsening of the left lung field
   Assessment and Plan
   67 yo F with longstanding hx of [**Hospital **] transferred to ICU presenting with
   hypoxia most likely due to bacterial left pneumonia  causes with known
   L PNA and chronic [**Doctor First Name **] (MDR) with future plan for R pneumonectomy.
   # Hypoxic respiratory Distress: Likely secondary to [**Doctor First Name **] superinfected
   with bacterial pneumonia.  Overnight, developed hypoxia which required
   emergent intubation .  Admitted with fever, CXR with new L sided
   consolidation.  ID following.  Patient is willing to be intubated only
   for acute problem - does not want to be chronically vented.
   - continue vanco, cefepime, flagyl
   - add azithro per ID recs
   - add urine legionella
   - may also be fluid overloaded secondary to aggressive hydration
   overnight. -> will require lasix 10mg X 1; urinary output robust.
   - add nebulizers as pt is wheezing
   - f/u final CXR read
   # hypotension: responsive to fluid, will give IVF fluid boluses
   cautiously, as patient is net positive and may be volume overloaded
   # [**Doctor First Name **]/bronchiectasis: ID has recommended d/c'ing all meds as [**Doctor First Name **] is
   unlikely to be contributing significantly to acute picture.
   - consider c/s thoracics in the morning
   - titrate oxygen to O2 sat of at least 93%
   - albulerol inhaler/nebulizers
   - tylenol prn
   # Fever:  Likely from PNA as above, abx as above, f/u cx.
   # Anemia:  At baseline
   FEN: No IVF, replete electrolytes, NPO for now
   Prophylaxis: [**Last Name (LF) **], [**First Name3 (LF) 124**] switch to subcutaneous heparin
   Access: peripherals
   Code:  Will intubate if medically necessary to overcome and acute
   problem.  [**Name (NI) **] is very clear that she does not want to be on a vent
   long term. Family (husband and children) very much want her to be full
   code.  At this point, patient does not need intubation, but may in the
   near future.  Will need to continue to discuss this with her, her
   family and would contact her out pt providers as well.
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition: Tube feeds today?
   Glycemic Control:
   Lines:
   18 Gauge - [**2100-10-29**] 10:29 PM
   Indwelling Port (PortaCath) - [**2100-10-30**] 12:12 AM
   Prophylaxis:
   DVT: [**Year (4 digits) **], switch to heparin sub q today
   Stress ulcer:  PPi
   VAP:  VAP bundle
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2100-10-31 07:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2100-10-30**] 05:37 PM
 BLOOD CULTURED - At [**2100-10-30**] 07:45 PM
 URINE CULTURE - At [**2100-10-30**] 09:19 PM
 NASAL SWAB - At [**2100-10-30**] 09:19 PM
 FEVER - 103.5
F - [**2100-10-30**] 07:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2100-10-30**] 03:37 PM
   Cefipime - [**2100-10-31**] 12:00 AM
   Metronidazole - [**2100-10-31**] 04:00 AM
   Azithromycin - [**2100-10-31**] 05:00 AM
   Vancomycin - [**2100-10-31**] 07:30 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.16 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2100-10-30**] 10:10 AM
   Pantoprazole (Protonix) - [**2100-10-30**] 12:10 PM
   Heparin Sodium (Prophylaxis) - [**2100-10-30**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-10-31**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.5
   Tcurrent: 37.3
C (99.2
   HR: 84 (80 - 123) bpm
   BP: 115/58(79) {89/48(63) - 136/65(88)} mmHg
   RR: 20 (19 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CO/CI (Fick): (8.5 L/min) / (6 L/min/m2)
   Mixed Venous O2% Sat: 82 - 82
   Total In:
                                                                  5,412 mL
                                                                  2,043 mL
   PO:
   TF:
   IVF:
                                                                  5,352 mL
                                                                  1,938 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                    540 mL
   Urine:
                                                                  2,300 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,112 mL
                                                                  1,503 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 29 cmH2O
   Compliance: 21.1 cmH2O/mL
   SpO2: 98%
   ABG: 7.34/40/104/22/-3
   Ve: 9.5 L/min
   PaO2 / FiO2: 173
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   299 K/uL
   112 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.6 mEq/L
   9 mg/dL
   107 mEq/L
   137 mEq/L
   25.5 %
   12.1 K/uL
        [image002.jpg]
                             [**2100-10-30**]  02:36 AM
                             [**2100-10-30**]  03:39 AM
                             [**2100-10-30**]  07:35 AM
                             [**2100-10-30**]  05:52 PM
                             [**2100-10-30**]  09:10 PM
                             [**2100-10-30**]  09:19 PM
                             [**2100-10-30**]  11:55 PM
                             [**2100-10-31**]  04:08 AM
                             [**2100-10-31**]  04:43 AM
                             [**2100-10-31**]  07:24 AM
   WBC
   7.8
   13.3
   17.7
   12.1
   Hct
   27.0
   25.9
   26.1
   25.5
   Plt
   [**Telephone/Fax (3) 8967**]99
   Cr
   0.5
   0.5
   0.6
   TropT
   <0.01
   TCO2
   24
   23
   22
   23
   23
   23
   Glucose
   154
   82
   112
   Other labs: PT / PTT / INR:26.4/45.2/2.6, CK / CKMB /
   Troponin-T:62/4/<0.01, ALT / AST:[**6-2**], Alk Phos / T Bili:53/0.3,
   Differential-Neuts:91.7 %, Lymph:4.6 %, Mono:3.2 %, Eos:0.3 %,
   D-dimer:1547 ng/mL, Fibrinogen:653 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.6 g/dL, LDH:276 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP) / resp failure
 new
   left pna, continue broad abx, wean vent as tolerated, cont micro w/u
   MAC / lung cavity
 not an active issue though has left her with
   minimal pulm reserve, hold outpatient meds
   Hypotension
 IVF as needed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2100-10-30**] 12:12 AM
   20 Gauge - [**2100-10-30**] 10:18 AM
   Arterial Line - [**2100-10-30**] 05:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2100-10-31 07:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2100-10-30**] 05:37 PM
 BLOOD CULTURED - At [**2100-10-30**] 07:45 PM
 URINE CULTURE - At [**2100-10-30**] 09:19 PM
 NASAL SWAB - At [**2100-10-30**] 09:19 PM
 FEVER - 103.5
F - [**2100-10-30**] 07:00 PM
   - intubated, full code currently
   - spiked fever to 103.5 at 7pm, pan-cultured
   - BP low, given NS boluses. still low in the 70s so started on levophed
   - A-line placed
   - ID recs: add tobramycin for double pseudomonas coverage and tamiflu,
   continue vanc/cefepime/flagyl/azithro
   - outpt pulmonologist Dr. [**Last Name (STitle) 643**] came by and talked to the family. She
   is on the whole weekend, and would be happy to be involved in any
   discussions with family
   - put pt on inhalers
   - swine flu, urinary legionella ag ordered
   - started pt on TF
   - hold off on CVL for now
   - BAL from [**10-20**] showed AFB, need to call the micro lab to check whether
   it is TB or [**Doctor First Name **]
   - new coagulopathy: INR went up from 1.6 to 2.6 from [**10-28**] to [**10-30**]. PTT
   went up as well. not on coumadin, got 2 doses of heparin today. heparin
   was d/c'd today. pt has h/o factor VII deficiency, baseline INR 1.6
   - septic: Lactate:1.3, ScvO2: 82
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2100-10-30**] 03:37 PM
   Cefipime - [**2100-10-31**] 12:00 AM
   Metronidazole - [**2100-10-31**] 04:00 AM
   Azithromycin - [**2100-10-31**] 05:00 AM
   Vancomycin - [**2100-10-31**] 07:30 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.16 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2100-10-30**] 10:10 AM
   Pantoprazole (Protonix) - [**2100-10-30**] 12:10 PM
   Heparin Sodium (Prophylaxis) - [**2100-10-30**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-10-31**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.5
   Tcurrent: 37.3
C (99.2
   HR: 84 (80 - 123) bpm
   BP: 115/58(79) {89/48(63) - 136/65(88)} mmHg
   RR: 20 (19 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CO/CI (Fick): (8.5 L/min) / (6 L/min/m2)
   Mixed Venous O2% Sat: 82 - 82
   Total In:
                                                                  5,412 mL
                                                                  2,048 mL
   PO:
   TF:
   IVF:
                                                                  5,352 mL
                                                                  1,943 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                    540 mL
   Urine:
                                                                  2,300 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,112 mL
                                                                  1,508 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 29 cmH2O
   Compliance: 21.1 cmH2O/mL
   SpO2: 98%
   ABG: 7.34/40/104/22/-3
   Ve: 9.5 L/min
   PaO2 / FiO2: 173
   Physical Examination
   General: Alert, oriented, in moderate respiratory distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: bronchial BS throughout
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  thin, soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   299 K/uL
   8.3 g/dL
   112 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.6 mEq/L
   9 mg/dL
   107 mEq/L
   137 mEq/L
   25.5 %
   12.1 K/uL
        [image002.jpg]
                             [**2100-10-30**]  02:36 AM
                             [**2100-10-30**]  03:39 AM
                             [**2100-10-30**]  07:35 AM
                             [**2100-10-30**]  05:52 PM
                             [**2100-10-30**]  09:10 PM
                             [**2100-10-30**]  09:19 PM
                             [**2100-10-30**]  11:55 PM
                             [**2100-10-31**]  04:08 AM
                             [**2100-10-31**]  04:43 AM
                             [**2100-10-31**]  07:24 AM
   WBC
   7.8
   13.3
   17.7
   12.1
   Hct
   27.0
   25.9
   26.1
   25.5
   Plt
   [**Telephone/Fax (3) 8967**]99
   Cr
   0.5
   0.5
   0.6
   TropT
   <0.01
   TCO2
   24
   23
   22
   23
   23
   23
   Glucose
   154
   82
   112
   Other labs:
   PT / PTT / INR:26.4/45.2/2.6,
   ALT / AST:[**6-2**], Alk Phos / T Bili:53/0.3
   D-dimer:1547 ng/mL, Fibrinogen:653 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.6 g/dL, LDH:276 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.0
   mg/dL
   Micro:
   [**2100-10-20**]: BAL positive for AFB
   Imaging:
   CXR (my read): persistent bilateral infiltrate
   Assessment and Plan
   67 yo F with longstanding hx of [**Hospital **] transferred to ICU presenting with
   hypoxia most likely due to bacterial left pneumonia  causes with known
   L PNA and chronic [**Doctor First Name **] (MDR) with future plan for R pneumonectomy.
   # Hypoxic respiratory Distress: Likely secondary to [**Doctor First Name **] superinfected
   with bacterial pneumonia.  Overnight, developed hypoxia which required
   emergent intubation .  Admitted with fever, CXR with new L sided
   consolidation.  ID following.  Patient is willing to be intubated only
   for acute problem - does not want to be chronically vented.
   - continue vanco, cefepime, flagyl
   - add azithro per ID recs
   - add urine legionella
   - may also be fluid overloaded secondary to aggressive hydration
   overnight. -> will require lasix 10mg X 1; urinary output robust.
   - add nebulizers as pt is wheezing
   - f/u final CXR read
   .
   # Anemia: Fe stuides revealed ACD. No evidence of DIC or hemolysis.
   - continue to monitor
   .
   # Coagulopathy: INR went up from 1.6 to 2.6 from [**10-28**] to [**10-30**]. PTT went
   up as well. not on coumadin, got 2 doses of heparin today. heparin was
   d/c'd today. pt has h/o factor VII deficiency, baseline INR 1.6.  The
   most likely cause for worsening coagulopathy included sepsis, 2 doses
   of heparin given small body size, antibiotics interfering with vit K
   and coagulation.
   - s/p 5mg PO vitK overnight
   - continue to monitor
   - continue boots
   - no heparin or coumadin
   .
   # hypotension: responsive to fluid, will give IVF fluid boluses
   cautiously, as patient is net positive and may be volume overloaded
   .
   # [**Doctor First Name **]/bronchiectasis: ID has recommended d/c'ing all meds as [**Doctor First Name **] is
   unlikely to be contributing significantly to acute picture.
   - consider c/s thoracics in the morning
   - titrate oxygen to O2 sat of at least 93%
   - albulerol inhaler/nebulizers
   - tylenol prn
   .
   # Fever:  Likely from PNA as above, abx as above, f/u cx.
   .
   ICU Care
   Nutrition: Tubefeeding: Nutren Pulmonary Full strength
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2100-10-30**] 12:12 AM
   20 Gauge - [**2100-10-30**] 10:18 AM
   Arterial Line - [**2100-10-30**] 05:37 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer:  PPi
   VAP:  VAP bundle
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate) Will intubate if medically
   necessary to overcome and acute problem.  [**Name (NI) **] is very clear that
   she does not want to be on a vent long term. Family (husband and
   children) very much want her to be full code.  At this point, patient
   does not need intubation, but may in the near future.  Will need to
   continue to discuss this with her, her family and would contact her out
   pt providers as well.
   Disposition: ICU

2100-11-01 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2100-11-1**] 04:20 AM
 FEVER - 102.9
F - [**2100-10-31**] 02:00 PM
   - continues on levophed (0.15)
   - ID recs: add micafungin 100mg daily
    - gave 1L NS bolus for low UOP, lowish BP (SBP 90), then another 500cc
   - CVO2Sat: 76
   repeat Hct 25.1, stable
   - at PM, TF had high residuals, so tamiflu PO may not have been
   absorbed.  TFs held.
   - spiked temp to 102 -> sent cultures
   - ordered CVO2sat for AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2100-10-30**] 03:37 PM
   Metronidazole - [**2100-10-31**] 08:30 PM
   Cefipime - [**2100-11-1**] 12:00 AM
   Azithromycin - [**2100-11-1**] 03:30 AM
   Vancomycin - [**2100-11-1**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Fentanyl (Concentrate) - 55 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2100-10-31**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-11-1**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37.5
C (99.5
   HR: 84 (80 - 121) bpm
   BP: 99/50(68) {88/49(63) - 119/59(80)} mmHg
   RR: 20 (6 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 43.4 kg (admission): 48.8 kg
   Height: 61 Inch
    CO/CI (Fick): (9.4 L/min) / (6.5 L/min/m2)
   Mixed Venous O2% Sat: 76 - 81
   Total In:
                                                                  5,044 mL
                                                                    762 mL
   PO:
   TF:
                                                                     41 mL
                                                                     21 mL
   IVF:
                                                                  4,808 mL
                                                                    741 mL
   Blood products:
   Total out:
                                                                  1,980 mL
                                                                    640 mL
   Urine:
                                                                  1,510 mL
                                                                    640 mL
   NG:
                                                                    470 mL
   Stool:
   Drains:
   Balance:
                                                                  3,064 mL
                                                                    123 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 26 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 98%
   ABG: 7.30/55/127/24/0
   Ve: 8.2 L/min
   PaO2 / FiO2: 181
   Physical Examination
   General: Alert, oriented, in moderate respiratory distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: bronchial BS throughout
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  thin, soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   310 K/uL
   8.5 g/dL
   110 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.1 mEq/L
   8 mg/dL
   107 mEq/L
   138 mEq/L
   26.4 %
   13.9 K/uL
        [image002.jpg]
                             [**2100-10-30**]  09:19 PM
                             [**2100-10-30**]  11:55 PM
                             [**2100-10-31**]  04:08 AM
                             [**2100-10-31**]  04:43 AM
                             [**2100-10-31**]  07:24 AM
                             [**2100-10-31**]  01:29 PM
                             [**2100-10-31**]  03:30 PM
                             [**2100-11-1**]  03:01 AM
                             [**2100-11-1**]  03:18 AM
                             [**2100-11-1**]  07:18 AM
   WBC
   17.7
   12.1
   13.9
   Hct
   26.1
   25.5
   25.1
   26.4
   Plt
   333
   299
   310
   Cr
   0.6
   0.5
   TCO2
   23
   23
   23
   23
   27
   28
   Glucose
   112
   110
   Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Sputum: 2+ GNR, 2+ GPR, 2+ yeasts, AFB +
   Cx: yeast sparse, GNR rare growth
   Pending resp viral screen
   Pending sputum, blood, urine cultures.
   CXR ([**11-1**]): worsening in left lung
   Assessment and Plan
   67 yo F with longstanding hx of [**Doctor First Name **] and bronchiectasis transferred to
   ICU presenting with hypoxic respiratory failure most likely due to
   bacterial left pneumonia.  Intubated with sepsis likely from pulmonary
   source.
   # Hypoxic respiratory Distress: Likely due to bacterial pneumonia in
   the setting of severely compromised lung reserves secondary to longterm
   [**Doctor First Name **] with cavitary lesions
   - continue vanco, cefepime, flagyl, azithro, tobramycin ([**10-30**] day 1).
   Added micafungin on [**10-31**] (day 1).
   - continue tamiflu
   - may also be fluid overloaded secondary to aggressive hydration
   overnight. -> will require lasix 10mg X 1; urinary output robust.
   - add nebulizers as pt is wheezing
   - will try to wean FiO2 as tolerated; decrease TV to 6-8cc/kg
   - follow up with Dr. [**Last Name (STitle) 643**] (outpatient pulmonologist) -> requests CTA
   to rule out PE: no PE, but new, large left sided pleural effusion
   - followed by ID
   .
   # sepsis: likely from pneumonia.
   - on levophed, IVF boluses as necessary.  Try to wean as tolerated.
   - treat underlying pulmonary infection
   - f/u cultures
   .
   # Anemia: Fe stuides revealed ACD. No evidence of DIC or hemolysis.
   - continue to monitor
   - hct stable -> check in PM
   .
   # Coagulopathy: INR went up from 1.6 to 2.6 from [**10-28**] to [**10-30**]. PTT went
   up as well. not on coumadin, got 2 doses of heparin today. heparin was
   d/c'd today. pt has h/o factor VII deficiency, baseline INR 1.6
   - hct stable
   - continue boots
   - no heparin or coumadin
   .
   # [**Doctor First Name **]/bronchiectasis: ID has recommended d/c'ing all meds as [**Doctor First Name **] is
   unlikely to be contributing significantly to acute picture.
   - consider c/s thoracics in the morning
   - titrate oxygen to O2 sat of at least 93%
   - albulerol inhaler/nebulizers
   - tylenol prn
   .
   ICU Care
   Nutrition: Tubefeeding: Nutren Pulmonary Full strength
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2100-10-30**] 12:12 AM
   20 Gauge - [**2100-10-30**] 10:18 AM
   Arterial Line - [**2100-10-30**] 05:37 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer:  PPi
   VAP:  VAP bundle
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate) Will intubate if medically
   necessary to overcome and acute problem.  [**Name (NI) **] is very clear that
   she does not want to be on a vent long term. Family (husband and
   children) very much want her to be full code.  At this point, patient
   does not need intubation, but may in the near future.  Will need to
   continue to discuss this with her, her family and would contact her out
   pt providers as well.
   Disposition: ICU

2100-11-01 12:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failiure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2100-11-1**] 04:20 AM
 FEVER - 102.9
F - [**2100-10-31**] 02:00 PM
   -Patient with persistent respiratory Compromise with evolution of
   significant sepsis with pressors now required for support.
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2100-10-30**] 03:37 PM
   Metronidazole - [**2100-10-31**] 08:30 PM
   Cefipime - [**2100-11-1**] 12:00 AM
   Azithromycin - [**2100-11-1**] 03:30 AM
   Vancomycin - [**2100-11-1**] 08:02 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Fentanyl (Concentrate) - 40 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2100-10-31**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-11-1**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 36.7
C (98.1
   HR: 78 (78 - 121) bpm
   BP: 117/61(81) {88/49(63) - 119/61(81)} mmHg
   RR: 24 (6 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 43.4 kg (admission): 48.8 kg
   Height: 61 Inch
   CO/CI (Fick): (9.4 L/min) / (6.5 L/min/m2)
   Mixed Venous O2% Sat: 76 - 81
   Total In:
                                                                  5,044 mL
                                                                  1,100 mL
   PO:
   TF:
                                                                     41 mL
                                                                     61 mL
   IVF:
                                                                  4,808 mL
                                                                  1,039 mL
   Blood products:
   Total out:
                                                                  1,980 mL
                                                                    960 mL
   Urine:
                                                                  1,510 mL
                                                                    960 mL
   NG:
                                                                    470 mL
   Stool:
   Drains:
   Balance:
                                                                  3,064 mL
                                                                    140 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 26 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 99%
   ABG: 7.30/55/127/24/0
   Ve: 7.6 L/min
   PaO2 / FiO2: 181
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Bronchial: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   310 K/uL
   110 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.1 mEq/L
   8 mg/dL
   107 mEq/L
   138 mEq/L
   26.4 %
   13.9 K/uL
        [image002.jpg]
                             [**2100-10-30**]  09:19 PM
                             [**2100-10-30**]  11:55 PM
                             [**2100-10-31**]  04:08 AM
                             [**2100-10-31**]  04:43 AM
                             [**2100-10-31**]  07:24 AM
                             [**2100-10-31**]  01:29 PM
                             [**2100-10-31**]  03:30 PM
                             [**2100-11-1**]  03:01 AM
                             [**2100-11-1**]  03:18 AM
                             [**2100-11-1**]  07:18 AM
   WBC
   17.7
   12.1
   13.9
   Hct
   26.1
   25.5
   25.1
   26.4
   Plt
   333
   299
   310
   Cr
   0.6
   0.5
   TCO2
   23
   23
   23
   23
   27
   28
   Glucose
   112
   110
   Other labs: PT / PTT / INR:25.1/38.9/2.4, CK / CKMB /
   Troponin-T:62/4/<0.01, ALT / AST:[**10-6**], Alk Phos / T Bili:52/0.2,
   Differential-Neuts:91.7 %, Lymph:4.6 %, Mono:3.2 %, Eos:0.3 %,
   D-dimer:1547 ng/mL, Fibrinogen:653 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:276 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.7
   mg/dL
   Imaging: CXR-ETT good position, multiple areas of cavitary lesion and
   with bilateral infiltrates noted.  Port in place for chronic ABX
   administration
   CT Scan--There is evolution of multiple areas of new opacity in left
   lung fields with cavitary lesions and many areas of interstitial
   opacities in right lung appearing to have minimal changes.
   Microbiology: Sputum-2+ GNR's
   Culture-Rare growth of GNR's
   Viral Screen-Pending
   Repeat Sputum/Urine/Blood-pending
   Assessment and Plan
   67 yo female with history of bronchiectasis and chronic [**Doctor First Name **] infection
   now admitted to ICU with worsening respiratory failure (hypoxemic) and
   intubated with sepsis now seen with likely pulmonary source.  She has
   had mild elevation in WBC count across this time.  She now has
   progression of respiratory compromise which may well be related to
   uncontrolled infection at this time.
   1)Respiratory Failure-In the setting of bronchiectasis and compromised
   lung function she now has persistent high ventilator requirements.  We
   have limited evidence of airflow obstruction dynamically but with
   persistent compromise in regards to ventilation and oxygentaion.  On
   Exam this morning she has relatively minimized airways obstruction.
   -Vanco/Cefepime/Tobramycin/Flagyl
   -Tamiflu/Azithromycin
   -Micafungin
   -Versed/Fentanyl
   -Continue with bronchodilator therapy
   -Wean FIO2 today as possible and continue with effective Ve settings
   -Will involve [**Doctor Last Name 643**] and ID as primary aid in advice for ongoing
   treatment and expected course.
   -Will move to more lung protective ventilation with 6-8cc/kg
   Hypotension
Likley secondary to sepsis
   -Levophed to continue
   -Will look to wean as tolerated today
   -Continue primary Rx for pulmonary infection today
 ALTERATION IN NUTRITION
 COAGULOPATHY
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2100-11-1**] 05:30 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2100-10-30**] 12:12 AM
   20 Gauge - [**2100-10-30**] 10:18 AM
   Arterial Line - [**2100-10-30**] 05:37 PM
   22 Gauge - [**2100-10-31**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Family updated in fulll
will need to consider
   goals fo care in light of clinical progress and did begin discussions
   with family this morning suggesting that this was still in very acute
   setting and going forward we would like to establish a trend hopefully
   for improvement although patient has quite likely a path to persistent
   respiratory failure.
   Code status: Full code
   Disposition : ICU
   Total time spent: 45 minutes

2100-11-02 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - SBP in the 80s, increased levophed to .20 (from .15).  Also given
   500cc NS challenge at 9PM due to tachycardia.  Urine output and BP
   increased.
   - repeat ABG: (1:40PM) 7.29/54/67 (after decreasing FiO2 from 70 to
   60%).  Rate increased to 28 from 20 and TV decreased from 400 to 350.
   - desatted to the 80s, tachy, FiO2 increased to 70%.
   - repeat ABG: (6 PM): 7.31, 49, 118 (AC, FiO2 70%, rate 28, TV 350)
   - Dr. [**Last Name (STitle) 643**]: order CTA to rule out PE -> family meeting tomorrow at
   1:30
   - will arrive in AM for U/S, possible tap
   - CTA results:  Clear progression as compared to [**2100-10-28**]. No safe
   evidence of PE. Newly appeared left pleural effusion with subsequent
   compression of the left lung. A clear progression in extent of the
   pre-existing left parenchymal opacities that show an increasing
   tendency to confluent. Unchanged large right upper lung cavity. The
   remaining more basal right cavities are unchanged.
   - ID recs: if sputum data do not grow gram positives after 72 hrs,
   consider d/c vanco. If flu is negative, d/c oseltamivir. Check
   tobramycin peak/troughs: pending
   - CVO2: 81
   - tobramycin level: < 0.2 -> therefore given another dose of 200mg IV
   as scheduled.
   - hct at 3:30: 27.4 (up from 26.4)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2100-11-1**] 04:00 PM
   Vancomycin - [**2100-11-1**] 09:38 PM
   Tobramycin - [**2100-11-1**] 09:38 PM
   Cefipime - [**2100-11-2**] 12:32 AM
   Metronidazole - [**2100-11-2**] 04:34 AM
   Azithromycin - [**2100-11-2**] 04:35 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2100-11-2**] 06:10 AM
   Fentanyl - [**2100-11-2**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-11-2**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 120 (78 - 120) bpm
   BP: 111/63(80) {87/49(65) - 131/69(90)} mmHg
   RR: 18 (15 - 30) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43.4 kg (admission): 48.8 kg
   Height: 61 Inch
             Total In:
                                                                  2,767 mL
                                                                    705 mL
   PO:
             TF:
                                                                    165 mL
   IVF:
                                                                  2,602 mL
                                                                    705 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    520 mL
   Urine:
                                                                  1,625 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,142 mL
                                                                    185 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (320 - 400) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   Compliance: 19.4 cmH2O/mL
   SpO2: 92%
   ABG: 7.33/50/90.[**Numeric Identifier 299**]/24/0
   Ve: 10.5 L/min
   PaO2 / FiO2: 113
   Physical Examination
   General: Alert, oriented, in moderate respiratory distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: bronchial BS throughout
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  thin, soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   305 K/uL
   8.7 g/dL
   139 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.8 mEq/L
   7 mg/dL
   107 mEq/L
   140 mEq/L
   26.5 %
   12.4 K/uL
        [image002.jpg]
                             [**2100-10-31**]  01:29 PM
                             [**2100-10-31**]  03:30 PM
                             [**2100-11-1**]  03:01 AM
                             [**2100-11-1**]  03:18 AM
                             [**2100-11-1**]  07:18 AM
                             [**2100-11-1**]  01:40 PM
                             [**2100-11-1**]  03:36 PM
                             [**2100-11-1**]  06:12 PM
                             [**2100-11-2**]  03:28 AM
                             [**2100-11-2**]  03:57 AM
   WBC
   13.9
   12.4
   Hct
   25.1
   26.4
   27.4
   26.5
   Plt
   310
   305
   Cr
   0.5
   0.4
   TCO2
   23
   27
   28
   27
   26
   28
   Glucose
   110
   139
   Other labs: PT / PTT / INR:25.9/35.2/2.5, CK / CKMB /
   Troponin-T:62/4/<0.01, ALT / AST:[**11-5**], Alk Phos / T Bili:62/0.2,
   Differential-Neuts:91.7 %, Lymph:4.6 %, Mono:3.2 %, Eos:0.3 %,
   D-dimer:1547 ng/mL, Fibrinogen:653 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.2 g/dL, LDH:320 IU/L, Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:1.9
   mg/dL
   CXR: today:
   ASSESSMENT/PLAN
   67 yo F with longstanding hx of [**Doctor First Name **] and bronchiectasis transferred to
   ICU presenting with hypoxic respiratory failure most likely due to
   bacterial left pneumonia.  Intubated with sepsis likely from pulmonary
   source.
   # Hypoxic respiratory Distress: Likely due to bacterial pneumonia, new
   left sided pleural effusion in the setting of severely compromised lung
   reserves secondary to longterm [**Doctor First Name **] with cavitary lesions
   - treat the pneumonia.  continue vanco, cefepime, flagyl, azithro,
   tobramycin ([**10-30**] day 1).  Added micafungin on [**10-31**] (day 1).
   - continue tamiflu
   - per ID, if sputum data do not grow gram positives after 72 hrs,
   consider d/c vanco. If flu is negative, d/c oseltamivir.
   - will follow up with Dr. [**Last Name (STitle) 643**] today regarding ultrasound of fluid
   and possible tapping of fluid.  Concern exists for parapneumonic
   effusion or empyema?
   - unlikely PE as CTA was negative.
   - may also be fluid overloaded secondary to aggressive hydration
   overnight. -> will require lasix 10mg X 1; urinary output robust.
   - add nebulizers as pt is wheezing
   - will try to wean FiO2 as tolerated; decrease TV to 6-8cc/kg
   - followed by ID
   .
   # sepsis: likely from pneumonia.
   - on levophed, IVF boluses as necessary.  Try to wean as tolerated.
   - treat underlying pulmonary infection
   - f/u cultures
   .
   # Anemia: Fe stuides revealed ACD. No evidence of DIC or hemolysis.
   - continue to monitor
   - hct stable -> check in PM
   .
   # Coagulopathy: INR went up from 1.6 to 2.6 from [**10-28**] to [**10-30**]. PTT went
   up as well. not on coumadin, got 2 doses of heparin today. heparin was
   d/c'd today. pt has h/o factor VII deficiency, baseline INR 1.6
   - hct stable
   - continue boots
   - no heparin or coumadin
   .
   # [**Doctor First Name **]/bronchiectasis: ID has recommended d/c'ing all meds as [**Doctor First Name **] is
   unlikely to be contributing significantly to acute picture.
   - consider c/s thoracics in the morning
   - titrate oxygen to O2 sat of at least 93%
   - albulerol inhaler/nebulizers
   - tylenol prn
   .
   ICU Care
   Nutrition: Tubefeeding: Nutren Pulmonary Full strength
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2100-10-30**] 12:12 AM
   20 Gauge - [**2100-10-30**] 10:18 AM
   Arterial Line - [**2100-10-30**] 05:37 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer:  PPi
   VAP:  VAP bundle
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate) Will intubate if medically
   necessary to overcome and acute problem.  [**Name (NI) **] is very clear that
   she does not want to be on a vent long term. Family (husband and
   children) very much want her to be full code.  At this point, patient
   does not need intubation, but may in the near future.  Will need to
   continue to discuss this with her, her family and would contact her out
   pt providers as well.
   Disposition: ICU

2100-11-02 09:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   500cc given as bolus with transient improvement in blood pressure and
   urine output
   CTA--no evidence of PE, pleural effusion in left chest noted
   Patient with persistent and worsening hypoxia
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2100-11-1**] 04:00 PM
   Tobramycin - [**2100-11-1**] 09:38 PM
   Cefipime - [**2100-11-2**] 12:32 AM
   Metronidazole - [**2100-11-2**] 04:34 AM
   Azithromycin - [**2100-11-2**] 04:35 AM
   Vancomycin - [**2100-11-2**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 250 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2100-11-2**] 06:10 AM
   Fentanyl - [**2100-11-2**] 07:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 100.6
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2100-11-2**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 127 (78 - 127) bpm
   BP: 110/66(81) {87/49(65) - 131/69(90)} mmHg
   RR: 18 (15 - 30) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43.4 kg (admission): 48.8 kg
   Height: 61 Inch
             Total In:
                                                                  2,767 mL
                                                                    986 mL
   PO:
             TF:
                                                                    165 mL
   IVF:
                                                                  2,602 mL
                                                                    961 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    620 mL
   Urine:
                                                                  1,625 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,142 mL
                                                                    366 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 350 (320 - 350) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 36 cmH2O
   Plateau: 28 cmH2O
   Compliance: 19.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.27/59/63/24/0
   Ve: 13 L/min
   PaO2 / FiO2: 79
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   305 K/uL
   139 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.8 mEq/L
   7 mg/dL
   107 mEq/L
   140 mEq/L
   26.5 %
   12.4 K/uL
        [image002.jpg]
                             [**2100-10-31**]  03:30 PM
                             [**2100-11-1**]  03:01 AM
                             [**2100-11-1**]  03:18 AM
                             [**2100-11-1**]  07:18 AM
                             [**2100-11-1**]  01:40 PM
                             [**2100-11-1**]  03:36 PM
                             [**2100-11-1**]  06:12 PM
                             [**2100-11-2**]  03:28 AM
                             [**2100-11-2**]  03:57 AM
                             [**2100-11-2**]  07:43 AM
   WBC
   13.9
   12.4
   Hct
   25.1
   26.4
   27.4
   26.5
   Plt
   310
   305
   Cr
   0.5
   0.4
   TCO2
   27
   28
   27
   26
   28
   28
   Glucose
   110
   139
   Other labs: PT / PTT / INR:25.9/35.2/2.5, CK / CKMB /
   Troponin-T:62/4/<0.01, ALT / AST:[**11-5**], Alk Phos / T Bili:62/0.2,
   Differential-Neuts:91.7 %, Lymph:4.6 %, Mono:3.2 %, Eos:0.3 %,
   D-dimer:1547 ng/mL, Fibrinogen:653 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.2 g/dL, LDH:320 IU/L, Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:1.9
   mg/dL
   Fluid analysis / Other labs: 7.27/59/63 on FIO2=0.8
   Imaging: CXR-Persistence and in fact worsening of left sided
   infiltrates
   Microbiology: Sputum--25 PMN's, no micro-organisms
   Assessment and Plan
   67 yo female with [**Doctor First Name **] and bronchiectasis now admitted wtih hypoxemic
   respiratory failure secondary to involvement in left lung with
   pulmonary infection.  She has persistent and significant hypoxemic
   respiratory failure despite broad spectrum antibiotics and has had CTA
   without evidence of PE seen.  She has small/moderate pleural effusion
   which, after discussion with Dr. [**Last Name (STitle) 643**] does appear to be quite
   unlikely to be contributing to respiratory failure with mechanical
   insult and would carry quite significant risk for tap due to compromise
   of right lung and coagulopathy.  In this setting we have significant
   and persistent hypoxemic and hypercarbic respiratory failure now with
   pressure control ventilation for support and this has been effected at
   maximal levels.
   1)Respiratory Failure-Have increased sedation and moved to pressure
   control ventilation
we have heterogenous lung disease and standard
   recruitment maneuvers would not be expected to be of benefit.  We have
   pursued lung protective strategy with lower tidal volumes and have had
   to titrate FIO2 up despite increased sedation.
   -Will maintain FIO2 at 0.8
   -Will move to increase RR to match patient ventilation needs
   -Will continue to treat pulmonary infection with the following
   Vanco/Cefepime/Flagyl
   Tamiflu/Tobra/Azithromycin
   Micafungin
   2)Hypotension
Sepsis secondary to pulmonary infection
   -Norepinephrine
   -IVF as needed but bias to pressors at this time
 ALTERATION IN NUTRITION
 COAGULOPATHY
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2100-10-30**] 12:12 AM
   20 Gauge - [**2100-10-30**] 10:18 AM
   Arterial Line - [**2100-10-30**] 05:37 PM
   22 Gauge - [**2100-10-31**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: W ill need to create family meeting to allow
   patient wishes to be acted upon in regards to goals of care in the
   setting of patient previous expressing wishes against intubation.
   Code status: DNR
   Disposition : ICU
   Total time spent: 40